US07615642B2
Step B: N-Ethyl-3-methyl-1H-pyrazole-4-carboxamide
Following the same procedure in Example 29 (Steps B and C in Method B), using 3-methyl-1H-pyrazole-4-carboxylic acid (252 mg, 2.0 mmol) and ethylamine (225 mg, 5.0 mmol), provided the desired crude compound (306 mg, 100%), which was used in Step A directly.

reactant | 3-methyl-1H-pyrazole-4-carboxylic acid | 2.0 mmol, 252 mg | CC1=NNC=C1C(=O)O | C5H6N2O2
reactant | ethylamine | 5.0 mmol, 225 mg | C(C)N | C2H7N
product | N-Ethyl-3-methyl-1H-pyrazole-4-carboxamide | 306 mg, 100% | C(C)NC(=O)C=1C(=NNC1)C | C7H11N3O
